US08304550B2
Synthesis of 1-(o-tolyloxy)naphthalene (table 1, entry 4):
278 μL (2 mmol) 1-bromonaphthaline, 20 mg (0.2 mmol) copper(I) chloride, 550 mg (4 mmol) potassium carbonate, 260 mg (2.4 mmol) o-cresol, 130 μL 1-butylimidazole, 2 mL toluene and 200 μL internal standard (tetradecane) were added to an Ace pressure tube under argon and heated to 120° C. for 16 h. After cooling, water and diethyl ether were added, the organic phase was washed with 10% K2CO3 solution, water and brine and dried over Na2SO4. GC analysis of the organic phase showed a yield of 89%. After evaporation of the solvents, the dark brown oil was submitted to column chromatography over silica gel, eluent light petroleum. 0.38 g of colourless oil was recovered (81% isolated yield). The substance was identified by gc/ms and nmr spectroscopy.

reactant | 1-bromonaphthaline | 2 mmol, 278 μL | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | potassium carbonate | 4 mmol, 550 mg | C([O-])([O-])=O.[K+].[K+]
reactant | o-cresol | 2.4 mmol, 260 mg | C1(=CC=CC=C1O)C | C7H8O
reactant | 1-butylimidazole | 130 μL | C(CCC)N1C=NC=C1 | C7H12N2
reactant | tetradecane | CCCCCCCCCCCCCC | C14H30
catalyst | copper(I) chloride | 0.2 mmol, 20 mg | [Cu]Cl
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(o-tolyloxy)naphthalene | yield of 89% | C1(=C(C=CC=C1)OC1=CC=CC2=CC=CC=C12)C | C17H14O
